US05221685
(26) Synthesis of 1-[4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazolin-2-yl]-3-(2-methoxybenzoyl)urea (Compound 58)
In toluene (10 ml) was dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (1.0 g), and 2-methoxybenzoylisocyanate (0.4 g) which is a starting compound was added thereto and the mixture was stirred at room temperature for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 1.0 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | 2-methoxybenzoylisocyanate | 0.4 g | COC1=C(C(=O)N=C=O)C=CC=C1 | C9H7NO3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazolin-2-yl]-3-(2-methoxybenzoyl)urea | FC(C1(N=C(SC1=C(C(F)(F)F)F)NC(=O)NC(C1=C(C=CC=C1)OC)=O)C(F)(F)F)(F)F | C16H9F10N3O3S
